US08309581B2
d) 2-(4-Chloro-2-methoxy-phenyl)-1H-benzoimidazole
The title compound was prepared in analogy to Example 19, intermediate c, from benzene-1,2-diamine (CAS Reg. No. 95-54-5) and 4-chloro-2-methoxy-benzoic acid (CAS Reg. No. 57479-70-6). Colorless powder (59%). MS (Turbo Spray): m/z=259.4 (M+H).

reactant | benzene-1,2-diamine | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | 4-chloro-2-methoxy-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)OC | C8H7ClO3
product | 2-(4-Chloro-2-methoxy-phenyl)-1H-benzoimidazole | ClC1=CC(=C(C=C1)C1=NC2=C(N1)C=CC=C2)OC | C14H11ClN2O
